US08476261B2
35B) Preparation of 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxamide
To a suspension of 9,10-difluoro-8-nitro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxamide (1 g, 2.7 mmol) in a mixture of water/methanol (1:1 v/v, 30 mL) was added sodium hydrosulfite (Na2S2O4, 3.75 g, 22 mmol). The suspension was refluxed for 5 h until all starting material had disappeared. Upon completion, the reaction mixture was cooled to room temperature and 50 ml of water were added. After 20 minutes, a light yellow solid was collected by filtration and washed with water. The solid was dried under vacuo to give 660 mg (73% yield) of the title compound that was used without further purification in the next step.

reactant | 9,10-difluoro-8-nitro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxamide | 2.7 mmol, 1 g | FC=1C(=C2C(C(=CN3C2=C(C1F)OCC31CCCC1)C(=O)N)=O)[N+](=O)[O-] | C16H13F2N3O5
reactant | sodium hydrosulfite | 22 mmol, 3.75 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | water | 50 ml | O | H2O
solvent | water methanol | 30 mL | O.CO
product | 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxamide | 660 mg, 73% yield | NC1=C2C(C(=CN3C2=C(C(=C1F)F)OCC31CCCC1)C(=O)N)=O | C16H15F2N3O3
